* Extracted by KLayout with SG13G2 LVS runset on : 05/04/2026 08:54

.SUBCKT LC_VCO 1 2 3 5 6 7 8 9
M$1 7 5 2 1 sg13_lv_nmos L=0.13u W=21.99u AS=5.2776p AD=5.2776p PS=30.76u
+ PD=30.76u
M$4 1 2 4 1 sg13_lv_nmos L=0.13u W=1.5u AS=0.51p AD=0.51p PS=3.68u PD=3.68u
M$5 5 2 7 1 sg13_lv_nmos L=0.13u W=21.99u AS=5.2776p AD=5.2776p PS=30.76u
+ PD=30.76u
M$8 6 5 1 1 sg13_lv_nmos L=0.13u W=1.5u AS=0.51p AD=0.51p PS=3.68u PD=3.68u
M$9 1 8 7 1 sg13_lv_nmos L=1u W=384u AS=74.16p AD=74.16p PS=410.54u PD=410.54u
M$57 1 8 8 1 sg13_lv_nmos L=1u W=64u AS=13.36p AD=13.36p PS=75.34u PD=75.34u
M$65 3 2 4 3 sg13_lv_pmos L=0.13u W=15u AS=3.075p AD=3.075p PS=20.6u PD=20.6u
M$75 3 5 2 3 sg13_lv_pmos L=0.13u W=36u AS=7.92p AD=7.92p PS=45.4u PD=45.4u
M$80 3 5 6 3 sg13_lv_pmos L=0.13u W=15u AS=3.075p AD=3.075p PS=20.6u PD=20.6u
M$90 3 2 5 3 sg13_lv_pmos L=0.13u W=36u AS=7.92p AD=7.92p PS=45.4u PD=45.4u
M$95 8 9 3 3 sg13_lv_pmos L=1u W=38u AS=8.36p AD=8.36p PS=47.8u PD=47.8u
C$100 2 5 1 rfcmim w=21.9u l=21.9u A=479.61p P=87.6u m=1 wfeed=10u
.ENDS LC_VCO
